US07465726B2
1-[4-(4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridin-1-yl]-3-piperidin-1-ylpropan-1-one
Alternative preparation: To a suspension/solution of 4-chloro-6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidine bis-hydrochloride (495.4 mg, 1.610 mmol, 1 eq), 1-piperidinepropanoic acid (335.4 mg, 2.133 mmol, 1.3 eq), and TBTU (624.4 mg, 1.945 mmol, 1.2 eq) in anhydrous DMF (15 mL), DiPEA (1.4 mL, 8 mmol, 5 eq) was added at rt, under N2, and stirred for 2 h. The solvent was evaporated under reduced pressure. The crude material was adsorbed onto Hydromatrix, dry loaded, and purified by chromatography on silica gel [Jones Flashmaster, 50 g/150 mL cartridge, eluting with MeOH:DCM 2%→5%→10%→7N NH3/MeOH:DCM 2%→5%]. Fractions containing product were combined and concentrated in vacuo, affording the title compound as a yellow solid.

reactant | 4-chloro-6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidine bis-hydrochloride | 1.610 mmol, 495.4 mg, 1 eq | Cl.Cl.ClC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2
reactant | 1-piperidinepropanoic acid | 2.133 mmol, 335.4 mg, 1.3 eq | N1(CCCCC1)CCC(=O)O | C8H15NO2
reactant | TBTU | 1.945 mmol, 624.4 mg, 1.2 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DiPEA | 8 mmol, 1.4 mL, 5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-[4-(4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridin-1-yl]-3-piperidin-1-ylpropan-1-one | ClC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(CCN2CCCCC2)=O | C19H24ClN5O
